US04588719
1-Cyano-5-methoxy-1-methylbenzocyclobutene
A solution of 1-cyano-5-methoxybenzocyclobutene (47.3 ml) in THF (300 ml) is added dropwise to a stirred suspension of NaH (23.8 g, 60% in mineral oil) and methyl iodide (37 ml) in THF (300 ml) under nitrogen and the reaction mixture is stirred at RT for three hours. H2O is added to the reaction mixture which is diluted with diethyl ether, washed with water, 10% aq. sodium sulphite, sat'd sodium chloride, dried, filtered and the filtrate evaporated in vacuo affording the desired product as a yellow oil.

reactant | 1-cyano-5-methoxybenzocyclobutene | 47.3 ml | C(#N)C1CC=2C1=CC(=CC2)OC | C10H9NO
reactant | NaH | 23.8 g | [H-].[Na+]
reactant | methyl iodide | 37 ml | CI | CH3I
reactant | H2O | O | H2O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-Cyano-5-methoxy-1-methylbenzocyclobutene | C(#N)C1(CC=2C1=CC(=CC2)OC)C | C11H11NO
